* Z:\home\solomon\ICWC\Mini_Projects\Mini_Project_2\LNA.asc
XX1 N023 N016 N025 0 nmos65 params: L=65nm, W=10um, M=22
R1 N026 N021 50
V1 N026 0 SINE(0 1u 2.5Giga) AC 1
Vdd N001 0 1.2
C2 N022 N021 1.5p
Ls 0 N025 1.1n Rser=1.57k
Lg N022 N023 7.5n Rser=1.57k
R4 N022 P001 50
XX2 N012 N011 N016 0 nmos65 params: L=65nm, W=10um,M=22
V2 P001 0 0.6
V3 N012 0 1.2
C3 N025 N023 1p
XX3 N013 N007 N019 0 nmos65 params: L=65nm, W=10um, M=22
R5 N024 N019 50
V4 N024 0 SINE(0 1u 2.5Giga) AC 1
R6 N003 N007 100
V5 N013 0 0.1
V6 N003 0 1.2
C1 N017 N016 10p
R3 N018 N017 100k
C5 N018 0 100f
C6 N008 N007 10p
R8 N009 N008 100k
C7 N009 0 100f
L1 N011 N001 5n Rser=1.57k
XX4 N010 N004 N014 0 nmos65 params: L=65nm, W=100um, M=20
V7 N020 0 SINE(0 1u 2.5Giga) AC 1 Rser=50
R7 N002 N004 1k
V9 N002 0 1.2
C4 Vout N004 10p
R9 N005 Vout 100k
C8 N005 0 100f
C9 N015 N020 15p
C10 N014 N010 2p
V8 N006 0 AC 1
R2 N004 N006 100k
L2 N014 0 10n
L3 N006 N010 1n

* block symbol definitions
.subckt nmos65 G D S B
M1 D G S B NMOS l={L} w={W} ad='2*65n*{W}' as='2*65n*{W}' pd='2*(2*65n+{W})' ps='2*(2*65n+{W})' m={M}
.PARAM L=65n W=1u M=1
.ends nmos65

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\solomon\My Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 100 2G 3G
;tran 0 0.01u 500f
;noise V(Vout) V7 dec 100 2G 3G
.net I(R9) V7
.backanno
.end
