* Z:\home\solomon\ICWC\Mini_Projects\Mini_Project_2\LNA.asc
XX1 N019 N013 N021 0 nmos65 params: L=65nm, W=10um, M=22
R1 N022 N017 50
V1 N022 0 SINE(0 1u 2.5Giga) AC 1
Vdd N002 0 1.2
C2 N018 N017 1.5p
Ls 0 N021 1.1n Rser=1.57k
Lg N018 N019 7.5n Rser=1.57k
R4 N018 P001 50
XX2 N011 N010 N013 0 nmos65 params: L=65nm, W=10um,M=22
V2 P001 0 0.6
V3 N011 0 1.2
C3 N021 N019 1p
XX3 N012 N007 N016 0 nmos65 params: L=65nm, W=10um, M=22
R5 N020 N016 50
V4 N020 0 SINE(0 1u 2.5Giga) AC 1
R6 N003 N007 100
V5 N012 0 0.1
V6 N003 0 1.2
C1 N014 N013 10p
R3 N015 N014 100k
C5 N015 0 100f
C6 N008 N007 10p
R8 N009 N008 100k
C7 N009 0 100f
L1 N010 N002 5n Rser=1.57k
XX4 N006 N004 0 0 nmos65 params: L=65nm, W=100um, M=10
V7 Vin 0 SINE(0 1u 2.5Giga) AC 1 Rser=50
V9 N001 0 1.2
C4 Vout N004 10p
Rl N005 Vout 100k
C9 N006 Vin 100p
Rf N004 N006 100k
R10 0 Vin 50
L2 N004 N001 10n
CL N004 0 403f
C8 N005 0 100f
Rs N001 N004 100

* block symbol definitions
.subckt nmos65 G D S B
M1 D G S B NMOS l={L} w={W} ad='2*65n*{W}' as='2*65n*{W}' pd='2*(2*65n+{W})' ps='2*(2*65n+{W})' m={M}
.PARAM L=65n W=1u M=1
.ends nmos65

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\solomon\My Documents\LTspiceXVII\lib\cmp\standard.mos
;ac dec 100 2G 3G
;tran 0 0.01u 500f
.noise V(Vout) V7 dec 100 2G 3G
.net I(R9)  V7
.backanno
.end
